US05665718
9.8 g (32 mmol) of 7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime were stirred in 60 ml of N,N-dimethylformamide with 7 g (41 mmol) of chloroacetic anhydride at room temperature for 1 hour and at 105° for 4 hours. After evaporating the solvent the residue was dissolved in methylene chloride and the solution was washed with saturated sodium bicarbonate solution and dried over magnesium sulfate. By evaporation of the solvent and chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 6.63 g (65%) of 7-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-6-one.

reactant | 7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime | 32 mmol, 9.8 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(N)=NO)C)=O | C13H12ClN5O2
reactant | chloroacetic anhydride | 41 mmol, 7 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-6-one | 6.63 g, 65% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CCl)C)=O | C15H11Cl2N5O2
